US07091214B2
Triethylamine (17.35 mL, 124 mmol) was added to a solution of 7-bromo-4-chloro-3-nitroquinoline (29.84 g, 104 mmol) in dichloromethane (253 mL), and the reaction was cooled to 0° C. 1-Amino-2-methylpropan-2-ol (10.17 g, 114 mmol) was added dropwise, and then the reaction was allowed to warm to ambient temperature and stirred overnight. A precipitate formed and was isolated by filtration and washed with water. The crude solid was recrystallized from a mixture of isopropanol and acetonitrile to provide 27.78 g of 1-(7-bromo-3-nitroquinolin-4-ylamino)-2-methylpropan-2-ol as a solid.

reactant | Triethylamine | 124 mmol, 17.35 mL | C(C)N(CC)CC | C6H15N
reactant | 7-bromo-4-chloro-3-nitroquinoline | 104 mmol, 29.84 g | BrC1=CC=C2C(=C(C=NC2=C1)[N+](=O)[O-])Cl | C9H4BrClN2O2
reactant | 1-Amino-2-methylpropan-2-ol | 114 mmol, 10.17 g | NCC(C)(O)C | C4H11NO
solvent | dichloromethane | 253 mL | ClCCl | CH2Cl2
product | 1-(7-bromo-3-nitroquinolin-4-ylamino)-2-methylpropan-2-ol | 27.78 g | BrC1=CC=C2C(=C(C=NC2=C1)[N+](=O)[O-])NCC(C)(O)C | C13H14BrN3O3
